US06358980B1
4-(4-But-2-ynyloxybenzenesulfonyl)-N-hydroxy-1-[(2,2,5-trimethyl-1,3-dioxan-5-yl)carbonyl]-4-piperidinecarboxamide was prepared following the procedure Example 64 (step 6). Starting from 4-(4-but-2-ynyloxybenzenesulfonyl)-1-[(2,2,5-trimethyl-1,3-dioxan-5-yl)carbonyl]-4-piperidinecarboxylic acid (280 mg, 0.57 mmol) in dimethylformamide (6 ml), 1-hydroxybenzotriazole (92 mg, 0.57 mmol), 1-[3-(dimethylamino)propyl]-3-ethylcarbodiimide hydrochloride (153 mg, 0.80 mmol), N-methylmorpholine (0.094 ml, 0.85 mmol), and hydroxylamine (0.174 ml, 2.85 mmol), 180 mg (62%) of the product was isolated as a solid. HR-MS: m/z Calculated for C24H32N12O8S 531.1771; Found 531.1768.

reactant | 4-(4-but-2-ynyloxybenzenesulfonyl)-1-[(2,2,5-trimethyl-1,3-dioxan-5-yl)carbonyl]-4-piperidinecarboxylic acid | 0.57 mmol, 280 mg | C(C#CC)OC1=CC=C(C=C1)S(=O)(=O)C1(CCN(CC1)C(=O)C1(COC(OC1)(C)C)C)C(=O)O | C24H31NO8S
reactant | 1-hydroxybenzotriazole | 0.57 mmol, 92 mg | ON1N=NC2=C1C=CC=C2 | C6H5N3O
reactant | 1-[3-(dimethylamino)propyl]-3-ethylcarbodiimide hydrochloride | 0.80 mmol, 153 mg | Cl.CN(CCCN=C=NCC)C
reactant | N-methylmorpholine | 0.85 mmol, 0.094 ml | CN1CCOCC1 | C5H11NO
reactant | hydroxylamine | 2.85 mmol, 0.174 ml | NO | H3NO
solvent | dimethylformamide | 6 ml | CN(C=O)C | C3H7NO
product | 4-(4-But-2-ynyloxybenzenesulfonyl)-N-hydroxy-1-[(2,2,5-trimethyl-1,3-dioxan-5-yl)carbonyl]-4-piperidinecarboxamide | C(C#CC)OC1=CC=C(C=C1)S(=O)(=O)C1(CCN(CC1)C(=O)C1(COC(OC1)(C)C)C)C(=O)NO | C24H32N2O8S
